US07294716B2
N-(3-Methoxy-2-nitrophenyl)acetamide (Intermediate A58)
N-(3-methoxyphenyl)acetamide (14.23 g, 0.086 mol) was dissolved in acetonitrile (200 mL) and cooled to 0° C. Solid nitronium tetrafluoroborate (14.79 g, 0.106 mol) was added in four portions. The temperature rose to about 5° C. during each addition and was allowed to cool down to 0°0 C. between additions. After the last addition of nitronium tetrafluoroborate, water (200 mL) was added to the reaction mixture and the mixture was concentrated under reduced pressure to give approximately 200 mL of a dark oil. The dark oil was dissolved in dichloromethane (200 mL) and washed with water (6×150 mL). The organic layer was concentrated under reduced pressure and dried to obtain 16.1 g of a dark red oil. The red oil was purified by flash chromatography (silica gel, 25% ethyl acetate/hexane) to give 4.53 g (27%) of the crude product. The crude product was triturated with 25% ethyl acetate/hexane to give 3.0 g (17%) of the title compound.

reactant | N-(3-methoxyphenyl)acetamide | 0.086 mol, 14.23 g | COC=1C=C(C=CC1)NC(C)=O | C9H11NO2
reactant | nitronium tetrafluoroborate | 0.106 mol, 14.79 g | F[B-](F)(F)F.O=[N+]=O
reactant | water | 200 mL | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-(3-Methoxy-2-nitrophenyl)acetamide | approximately 200 mL | COC=1C(=C(C=CC1)NC(C)=O)[N+](=O)[O-] | C9H10N2O4
